US07001900B2
A solution of 7-methoxy-2-naphthonitrile (501 mg, 2.74 mmol) and KOH (503 mg, 9.0 mmol) in 95% ethanol (5 mL) is heated to reflux for 24 hours. The reaction mixture is allowed to cool, diluted with water and then acidified to pH<2 with concentrated HCl. The resulting precipitate is collected by filtration, washed with water and dried by heating at 70° C. under vacuum to give 7-methoxy-2-naphthoic acid as a white solid (540 mg, 98%). HRMS (FAB) calculated for C12H10O3+H+: 203.0708, found 203.0701.

reactant | 7-methoxy-2-naphthonitrile | 2.74 mmol, 501 mg | COC1=CC=C2C=CC(=CC2=C1)C#N | C12H9NO
reactant | KOH | 9.0 mmol, 503 mg | [OH-].[K+]
reactant | HCl | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 7-methoxy-2-naphthoic acid | 540 mg, 98% | COC1=CC=C2C=CC(=CC2=C1)C(=O)O | C12H10O3
